US05130339
Trimethylsylyl cyanide (6.9 g, 9.3 ml, 0.07 mol) is added dropwise in 10 minutes to a mixture of 8-methoxy-3,4-di-hydronaphthalen-2(1H)-one (10.9 g, 0.06 mol) prepared as described in the literature (J. Chem. Soc., 1958, 409), anhydrous acetonitrile (60 ml) and a catalytic amount of zinc iodide under nitrogen atmosphere and the obtained mixture is heated to 80° C. ext. for 3 hours. The reaction mixture is cooled, 1N HCl (20 ml) is slowly added thereto and stirring is continued for 2 hours at room temperature. The solvent is then evaporated off under vacuum, the residue is taken up in ethyl acetate, and the organic solution is washed with water, dried over sodium sulfate, filtered and evaporated to dryness. The obtained product is triturated with petroleum ether, filtered and dissolved in pyridine (100 ml). POCl3 (20 ml) is added dropwise in 10 minutes and the obtained mixture is heated to 120° C. ext. for 3 hours. The reaction mixture is then poured into ice, made acidic by the addition of concentrated hydrochloric acid and extracted with ethyl ether. The organic phase is washed with water, dried and evaporated to dryness and the obtained residue is crystallised from isopropyl ether yielding 2-cyano-8-methoxy-3,4-dihydronaphthalene (7.2 g); m.p. 66°-68° C.

reactant | cyanide | 0.07 mol, 9.3 ml, 6.9 g | [C-]#N
reactant | 8-methoxy-3,4-di-hydronaphthalen-2(1H)-one | 0.06 mol, 10.9 g | COC=1C=CC=C2CCC(CC12)=O | C11H12O2
reactant | HCl | 1N, 20 ml | Cl | ClH
catalyst | zinc iodide | [I-].[Zn+2].[I-]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-cyano-8-methoxy-3,4-dihydronaphthalene | 7.2 g | C(#N)C1=CC2=C(C=CC=C2CC1)OC | C12H11NO
